US07745438B2
1-benzyloxy-3-fluoro-5-(2-nitro-ethyl)-benzene
Add sodium borohydride (1.69 g, 44.64 mmol) to 1-benzyloxy-3-fluoro-5-((E)-2-nitro-vinyl)-benzene (3.05 g, 11.16 mmol) and silica gel (22 g) in chloroform (112 mL) and isopropanol (33 mL) at room temperature in portions over 5 minutes. Stir at room temperature 90 minutes and filter. Concentrate and dissolve in ethyl acetate. Wash (10% potassium carbonate and saturated aqueous sodium chloride), dry over magnesium sulfate, filter and concentrate. Purify on 120 g silica gel eluting with 100:0 to 80:20 hexanes:ethyl acetate to afford 1.33 g (43.3%) of the desired compound as an oil.

reactant | sodium borohydride | 44.64 mmol, 1.69 g | [BH4-].[Na+]
reactant | 1-benzyloxy-3-fluoro-5-((E)-2-nitro-vinyl)-benzene | 11.16 mmol, 3.05 g | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)\C=C\[N+](=O)[O-])F | C15H12FNO3
solvent | chloroform | 112 mL | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 33 mL | C(C)(C)O | C3H8O
product | 1-benzyloxy-3-fluoro-5-(2-nitro-ethyl)-benzene | 1.33 g, 43.3% | C(C1=CC=CC=C1)OC1=CC(=CC(=C1)CC[N+](=O)[O-])F | C15H14FNO3
